US08053438B2
3,4-Dihydro-2H-pyran-5-yl trifluoromethanesulfonate (0.66 g, 2.8 mmol), bis(pinacolato)diboron (0.79 g, 3.1 mmol), potassium acetate (0.84 g, 8.5 mmol), and 1,1′-bis(diphenylphosphino)ferrocene-palladium (ii) dichloride dichloromethane complex (0.070 g, 0.085 mmol) were taken up in 10 mL of dioxane in a sealable tube. The mixture was purged with nitrogen and the tube was sealed. The tube was then heated to 80° C. After 12 hours, the mixture was cooled to rt. The mixture was diluted with 40 mL of EtOAc and washed with 10 mL of water and 10 mL of brine, then dried over MgSO4. Filtration and concentration under reduced pressure, followed by flash chromatography on silica gel (1% to 10% EtOAc/hexanes) afforded 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,4-dihydro-2H-pyran.

reactant | 3,4-Dihydro-2H-pyran-5-yl trifluoromethanesulfonate | 2.8 mmol, 0.66 g | FC(S(=O)(=O)OC=1CCCOC1)(F)F | C6H7F3O4S
reactant | bis(pinacolato)diboron | 3.1 mmol, 0.79 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 8.5 mmol, 0.84 g | C(C)(=O)[O-].[K+]
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,4-dihydro-2H-pyran | CC1(OB(OC1(C)C)C=1CCCOC1)C | C11H19BO3
